US08349849B2
5-(Heptyloxy)-2-nitrobenzaldehyde
5-Hydroxy-2-nitrobenzaldehyde (3.60 g, 0.0215 mol), 1-heptanol (2.50 g, 0.0215 mol) and triphenylphosphine polymer bound (3 mmol/g loading; 9 g, 0.028 mol) were placed in a flask followed by tetrahydrofuran (300 mL, 4 mol). A solution of azodicarboxylic acid di-tert-butyl ester (5.94 g, 0.0258 mol) in THF (15 mL) was then added dropwise at 23° C. The reaction mixture was then allowed to stir for 1 day. Filtered through a celite pad, and the crude mixture was then purified via chromatography (SiO2, 120 g, 0-100% ethyl acetate/hexanes) to give a pure product (3.25 g, 57%). 1H NMR (CHLOROFORM-d) 8: 10.50 (s, 1H), 8.16 (d, J=9.0 Hz, 1H), 7.32 (d, J=3.0 Hz, 1H), 7.14 (dd, J=9.0, 2.8 Hz, 1H), 4.11 (t, J=6.5 Hz, 2H), 1.76-1.92 (m, 2H), 1.42-1.53 (m, 2H), 1.21-1.42 (m, 6H), 0.82-0.99 (m, 3H). MS (M+1): 266.20.

reactant | 5-Hydroxy-2-nitrobenzaldehyde | 0.0215 mol, 3.60 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | 1-heptanol | 0.0215 mol, 2.50 g | C(CCCCCC)O | C7H16O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid di-tert-butyl ester | 0.0258 mol, 5.94 g | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 4 mol, 300 mL | O1CCCC1 | C4H8O
product | 5-(Heptyloxy)-2-nitrobenzaldehyde | 3.25 g, 57% | C(CCCCCC)OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H19NO4
